US04876350
A solution of 78.6 mg of (3aS,6aR)-hexahydro-1-[(R)-(1-phenylethyl)]-2-oxo-3-benzylthieno-[3,4-d]imidazol-4-ylidene pentanoic acid in 5 ml of isopropanol was placed in a 100-ml autoclave and 39 mg of palladium (5 percent) on carbon was added. The autoclave was flushed twice with hydrogen and the mixture was stirred under 50 bars of hydrogen pressure at 50° C. for 24 hours. Then the catalyst was filtered off and the solvent evaporated off. The product., (3aS,6aR)-hexahydro-1-[(R)-(1-phenylethyl)]-2-oxo-3-benzylthieno-[3,4-d]imidazol-4-yl pentanoic acid, was obtained as a colorless oil in a yield of 56.1 mg (72 percent). Concerning the product:

reactant | (3aS,6aR)-hexahydro-1-[(R)-(1-phenylethyl)]-2-oxo-3-benzylthieno-[3,4-d]imidazol-4-ylidene pentanoic acid | 78.6 mg | C1(=CC=CC=C1)[C@@H](C)N1C(N([C@H]2[C@@H]1CSC2=C(C(=O)O)CCC)CC2=CC=CC=C2)=O | C25H28N2O3S
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
catalyst | palladium | 39 mg | [Pd] | Pd
product | (3aS,6aR)-hexahydro-1-[(R)-(1-phenylethyl)]-2-oxo-3-benzylthieno-[3,4-d]imidazol-4-yl pentanoic acid | C1(=CC=CC=C1)[C@@H](C)N1C(N([C@H]2[C@@H]1CSC2C(C(=O)O)CCC)CC2=CC=CC=C2)=O | C25H30N2O3S
